* U:\GitHub\be-chti-asm\Projet LASER, gestion du son\spice\PWM.asc
V1 Compteur 0 PULSE(0 3.3 0 5u 0 0 5u)
C1 Filtre 0 10n
R1 Filtre PWM 3.9k
V2 CompValue 0 SINE(1.65 1 2k)
B1 PWM 0 V=if(V(CompValue)>V(Compteur),3.3,0)
;ac dec 100 1 10meg
.tran 0 1.5m 0 0.01u
* Compteur de l'unité Timer
* Partie PWM de l'unité Timer
* TIMER3
* PB0
* Chanel 3
* STM32F103
.backanno
.end
